US07157488B2
3-(2-Nitrovinyl)-6-ethoxycarbonyl-1H-indole
Combine 1-dimethylamino-2-nitroethylene (1.93 g, 16.58 mmol) and TFA (10.0 ml) and stir until dissolved. Add 6-ethoxycarbonyl-1H-indole (3.14 g, 16.58 mmol) and stir at ambient temperature. After 1 hour, pour the reaction mixture into ice/water, extract with ethyl acetate, then evaporate to residue. Stir the residue in warm ethanol, cool to ambient temperature, then filter and dry to give the title compound as a dark yellow powder: mp 241° C. MS (ACPI): m/e 261.1 (M+1). Analysis for C13H12N2O4: Calcd: C, 60.00; H, 4.65; N, 10.76; found: C, 59.99; H, 4.63; N, 10.59.

reactant | 1-dimethylamino-2-nitroethylene | 16.58 mmol, 1.93 g | CN(C=C[N+](=O)[O-])C | C4H8N2O2
reactant | TFA | 10.0 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 6-ethoxycarbonyl-1H-indole | 16.58 mmol, 3.14 g | C(C)OC(=O)C1=CC=C2C=CNC2=C1 | C11H11NO2
product | 3-(2-Nitrovinyl)-6-ethoxycarbonyl-1H-indole | [N+](=O)([O-])C=CC1=CNC2=CC(=CC=C12)C(=O)OCC | C13H12N2O4
